US04148643
α-(2-Acetoxy-5-chlorosulfonylphenylazo)acetoacetanilide
α-(2-Acetoxy-5-sulfophenylazo)acetoacetanilide (20 g) was added to thionyl chloride (100 ml). After the addition of dimethylformamide (4 ml), solution was complete, then followed by precipitation of the product. It was filtered off and dried in the vacuum oven at 40° C. Yield: 16.7 g, m.p. 225° to 226° C.

reactant | α-(2-Acetoxy-5-sulfophenylazo)acetoacetanilide | 20 g | C(C)(=O)OC1=C(C=C(C=C1)S(=O)(=O)O)N=NC(C(=O)NC1=CC=CC=C1)C(=O)C | C18H17N3O7S
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | α-(2-Acetoxy-5-chlorosulfonylphenylazo)acetoacetanilide | C(C)(=O)OC1=C(C=C(C=C1)S(=O)(=O)Cl)N=NC(C(=O)NC1=CC=CC=C1)C(=O)C | C18H16ClN3O6S
